US07517987B2
Step W: (2S)-2-(2-amino-benzylamino)-3-Methyl-butyric acid tert-butyl ester
To a solution of (2S)-3-methyl-2-(2-nitro-benzylamino)-butyric acid tert-butyl ester (1.753 g, 5.68 mmol) in EtOH (30 mL) was added Raney nickel (1.3 mL) and the reaction mixture was hydrogenated under ballon pressure for 2 hours. The catalyst was filtrated and the filtrate evaporated to give the sub-title compound as a yellow oil (1.573 g, 100%). 1H NMR (400 MHz CDCl3) δ 0.81-0.90 (6H, m) 1.55 (9H, s), 1.90 (1H, m), 2.89 (1H, d), 3.62 (1H, d), 3.86 (1H, d), 4.68 (2H, vbr s), 6.68 (2H, m), 7.02 (1H, d), 7.13 (1H, t).

reactant | (2S)-3-methyl-2-(2-nitro-benzylamino)-butyric acid tert-butyl ester | 5.68 mmol, 1.753 g | C(C)(C)(C)OC([C@H](C(C)C)NCC1=C(C=CC=C1)[N+](=O)[O-])=O | C16H24N2O4
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Raney nickel | 1.3 mL | [Ni] | Ni
product | (2S)-2-(2-amino-benzylamino)-3-Methyl-butyric acid tert-butyl ester | 1.573 g, 100% | C(C)(C)(C)OC([C@H](C(C)C)NCC1=C(C=CC=C1)N)=O | C16H26N2O2
